Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
aspirin / vancomycin
 
Attending: ___.
 
Chief Complaint:
repeat cesarean section
 
Major Surgical or Invasive Procedure:
low transverse cesarean section
Drainage of seroma at incision via ___

 
History of Present Illness:
Patient is a ___ yr old G5P1123 at 36 ___ wks., EDC ___,
admitted for repeat cesarean section. History of prior classical
with delivery of twin at 25 weeks. Also desires permanent
sterilization via BTL and consents to this. 
Prenatal course significant for: Admission for ? renal stones,
painful contractions at 25 weeks. Resolution with IV hydration.
No cystitis or infections identified. Recvd betamethasone at 
that
time.

Admit at 34 weeks for painful contractions that resolved with
rest and did not recur.

 
Past Medical History:
Prenatal Labs: Blood type: A+ ab neg
Hct 34; hgb 11.5; plat 279
Hep B s ag; HIV neg; Rubella immune
RPR nonreactive
CF neg - ___
ERA: low risk tri 21, ___ - each 1: > 10,000.
Third tri: hct 31; hgb 10; glucola : 80

Dating EDC ___ by LMP and first tri scan. Placenta posterior
at anatomic survey. Normal fetal growth to date.

PMH Depression: Postpartum after first child. Prior use of
citralopram. Feel well. No recurrence with second pregnancy.
No hx of hypertension, diabetes, liver or renal disease. No
thyroid dysfunction.

Surg Hx: Cesarean section, classical incision.

Ob Hx:NVD at term.
Twin gestation, PROM, preterm labor, classical c section at 25
weeks.

Gyn Hx: no hx of gonorrohea, chlamydia, herpes.

 
Social History:
Hx Domestic violence: Prior partner. No current concerns.
 
Physical Exam:
On discharge:
Gen: NAD
Resp: breathing comfortably
CV: RRR
Abd: soft, appropriately tender, no rebound/guarding
Incision intact, no erythema, induration noted.
Lochia: minimal
Ext: no calf tenderness 
 
Pertinent Results:
___ 10:40AM BLOOD WBC-7.4 RBC-3.52* Hgb-9.0* Hct-28.6* 
MCV-81* MCH-25.6* MCHC-31.5* RDW-14.1 RDWSD-41.8 Plt ___
___ 06:03AM BLOOD WBC-6.4 RBC-3.41* Hgb-8.6* Hct-27.5* 
MCV-81* MCH-25.2* MCHC-31.3* RDW-14.4 RDWSD-42.3 Plt ___
___ 06:03AM BLOOD ___ PTT-28.6 ___
___ 06:03AM BLOOD Glucose-85 UreaN-6 Creat-0.4 Na-136 K-3.9 
Cl-104 HCO3-24 AnGap-12
.
___ 11:02 am ABSCESS      Source: abdominal fluid 
collection. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

 
Brief Hospital Course:
This ___ was admitted to postpartum after repeat low transverse 
cesarean section on ___. She has a history of 
abdominoplasty, and two days postpartum developed a  fluid 
collection superior to her incision concerning for seroma. 
Plastic surgery was consulted, concurred with fluid collection 
evident and recommended interventional radiology imaging guided 
drainage. She underwent ___ drainage on ___ with 60cc SS fluid 
extracted via ___ drain. No drain was left in place. Fluid 
cultures were sent and are pending at discharge. On the day 
after the initial procedure she felt as if there was additional 
fluid collecting. A bedside scan by the OBGYN team noted a 2 x 2 
cm pocket of fluid. Plastics was consulted and did not feel 
there was a need to repeat the drainage. the patient agreed and 
preferred to follow this and re-present if addl fluid collected 
in the following days. She wad discharged to home on POD #5,
with instructions for outpatient follow up.
 
Medications on Admission:
colace, PNV, vitamin B6 
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN Pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*40 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*40 Capsule Refills:*0
3. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth every 6 hours Disp 
#*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Repeat low transverse cesarean section
Tubal ligation
History of prior classical cesarean section

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call for temperature greater than 101, heavy vaginal bleeding, 
severe abdominal pain, inability to eat or drink.
 
Followup Instructions:
___